US05919803
[2-Hydroxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenylpiperidin-3-yl)amine
A suspension of [2-methoxy-5-(5-trifluoromethyl-tetrazol-1-yl)benzyl]-([2S,3S]-2-phenylpiperidin-3yl)amine dihydrochloride (1.01 g, 2 mmol) in chloroform (20 ml) was stirred at room temperature and treated with triethylamine, (0.58 ml, 406 mg, 4 mmol) to give a clear solution. This was then treated slowly with a solution of boron tribromide: dimethylsulfide complex (20 ml of 1M solution in dichloromethane; 20 mmol) and the reaction mixture was refluxed under nitrogen for 3 days . Further reagent (10 ml, 10 mmol) was then added and after a further 3 days the mixture was cooled in an ice-bath, stirred and treated with methanol (40 ml). The mixture was evaporated to dryness. This treatment was repeated twice further. The resulting oil was partitioned between ethyl acetate (100 ml) and saturated aqueous sodium bicarbonate (100 ml). The aqueous phase was extracted with further ethyl acetate (50 ml) after pH adjustment (to pH ca 8). Combined extracts were washed with brine (100 ml) dried (MgSO4) and evaporated to a brown foam, which was chromatographed on silica (Merck 9385) eluting with 2% then 5% methanol in dichloromethane. The required fractions were combined and evaporated to give the title compound as a light brown foam (672 mg), mass spectrum (thermospray +ve) m/e 419 (MH+).

reactant | [2-methoxy-5-(5-trifluoromethyl-tetrazol-1-yl)benzyl]-([2S,3S]-2-phenylpiperidin-3yl)amine dihydrochloride | 2 mmol, 1.01 g | Cl.Cl.COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1C(F)(F)F
reactant | triethylamine | 4 mmol, 0.58 ml, 406 mg | C(C)N(CC)CC | C6H15N
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | dimethylsulfide | 20 mmol, 1M, 20 ml | CSC | C2H6S
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 40 ml | CO | CH4O
product | [2-Hydroxy-5-(5-trifluoromethyl-tetrazol-1-yl)-benzyl]-([2S,3S]-2-phenylpiperidin-3-yl)amine | 672 mg | OC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1C(F)(F)F | C20H21F3N6O
